US08431695B2
Step 5: Preparation of {2-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl]-cyclopropyl}-methanol (trans)
To a solution of 2-[4-amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl]-cyclopropanecarboxylic acid ethyl ester (3.55 g, 7.6 mmol) in THF (106 mL) at 0° C. was added DIBAL (4.3 g, 30 mmol). The reaction mixture was stirred at rt for 1.5 hour. TLC analysis showed starting material, and 20 mL of DIBAL was added. The reaction mixture was stirred at rt for another 3 hours until no starting material was detected by TLC analysis. The reaction was quenched by saturated, aqueous NH4Cl. The organic layer was separated, dried and concentrated in vacuo. The residue was purified by Biotage® (gradient 50%—100% EtOAc/hexane to 5% MeOH/EtOAc) to give the title product as an off-white solid, 2.5 g (yield 77%). 1H NMR (300 MHz, DMSO-d6) δ 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 4.6 (m, 2 H), 3.4 (m, 2 H), 2.90 (m, 2 H), 1.2-1.0 (m, 2 H); ES-MS m/z 425.33 [M+H]+, HPLC RT (min) 2.93.

reactant | 2-[4-amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl]-cyclopropanecarboxylic acid ethyl ester | 7.6 mmol, 3.55 g | C(C)OC(=O)C1C(C1)CC1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H26N6O2
reactant | DIBAL | 30 mmol, 4.3 g | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 20 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 106 mL | C1CCOC1 | C4H8O
product | {2-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl]-cyclopropyl}-methanol | yield 77% | NC1=NC=NN2C1=C(C=C2CC2C(C2)CO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C25H24N6O
